US04634704
A mixture of 1.1 parts of isocyanatomethane, 6.76 parts of 1-[(4-fluorophenyl)methyl]-N-[1-[2-[2-thiazolylamino]ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine and 90 parts of tetrahydrofuran was stirred and refluxed overnight. The reaction mixture was evaporated. The residue was crystallized from acetonitrile, yielding 4.5 parts (59%) of N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-N'-methyl-N-(2-thiazolyl)urea; mp. 171.9° C. (compound 103).

reactant | isocyanatomethane | N(=C=O)C | C2H3NO
reactant | 1-[(4-fluorophenyl)methyl]-N-[1-[2-[2-thiazolylamino]ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC=2SC=CN2 | C24H27FN6S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-N'-methyl-N-(2-thiazolyl)urea | 59% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCN(C(=O)NC)C=2SC=CN2 | C26H30FN7OS
